US09447078B2
Addition of CH3CN to (E)-5-(2-cyclohexylvinyl)thiophene-3-carbaldehyde following the method used in Example 3 gave (E)-3-(5-(2-cyclohexylvinyl)thiophen-3-yl)-3-hydroxypropanenitrile as a yellow oil which was used in the next step without further purification. Yield (0.47 g, quant.).

reactant | (E)-5-(2-cyclohexylvinyl)thiophene-3-carbaldehyde | C1(CCCCC1)/C=C/C1=CC(=CS1)C=O | C13H16OS
reactant | CH3CN | CC#N | C2H3N
product | (E)-3-(5-(2-cyclohexylvinyl)thiophen-3-yl)-3-hydroxypropanenitrile | C1(CCCCC1)/C=C/C1=CC(=CS1)C(CC#N)O | C15H19NOS
